data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_350617_1,[C:1]([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])=[C:4]([C:6](=[C:7]([H:18])[H:19])[H:11])[O:8][C:5](=[O:9])[H:10]>>[C:1]([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])([C:4]([C:6](=[C:7]([H:18])[H:19])[H:11])=[O:8])[C:5](=[O:9])[H:10],46.39233000000843
MR_218025_1,[C:1](/[N:8]=[C:4](/[C:6](=[C:5]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[H:10])[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([N:8]1[C:4]([O:7][H:9])=[C:6]([H:10])[C:5]1([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13],46.57367750001427
MR_671130_0,[C@:1]1([C:3]([H:12])([H:13])[H:14])([N:5]([C:6](=[O:8])[H:11])[H:9])[C@@:2]([C:4]([H:15])([H:16])[H:17])([H:10])[O:7]1>>[C:1]1([C:3]([H:12])([H:13])[H:14])([N:5]([C:6](=[O:8])[H:11])[H:9])[C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[O:7]1,62.95832999998765
MR_671882_1,[N:1]([N:2](/[C:5](=[C:4](\[O:7][H:10])[H:13])[H:14])[H:12])([C:3]([O:6][H:9])=[O:8])[H:11]>>[N:1]([N:2]([C:5]([C:3]([O:6][H:9])=[O:8])([C:4](=[O:7])[H:13])[H:14])[H:12])([H:10])[H:11],46.372250000023456
MR_86415_1,[C:1](=[C:4](/[N:6]=[C:3](/[C:2]([H:13])([H:14])[H:15])[N:7]([O:5][H:8])[H:9])[H:12])([H:10])[H:11]>>[C:1](/[C:4](=[N:6]\[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]/[H:9])[H:12])([O:5][H:8])([H:10])[H:11],50.681920000021705
MR_362432_1,[C@:1]([C:2]([H:12])([H:13])[H:14])([O:6][N:4]([H:9])[H:10])([N:7][C:5]([C:3]([H:15])([H:16])[H:17])[H:11])[H:8]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[N:7]/[C@@:5]([C:3]([H:15])([H:16])[H:17])([O:6][N:4]([H:9])[H:10])[H:11])[H:8],46.3728774999862
MR_306682_1,[C:1]1([C:3]([H:12])([H:13])[H:14])([H:7])[N:4]([C:2]([N:5]([H:8])[H:9])([H:10])[H:11])[O:6]1>>[C:1]([C:3]([H:12])([H:13])[H:14])([N:4]([C:2]([N:5]([H:8])[H:9])([H:10])[H:11])[H:7])=[O:6],46.43688249996728
MR_246833_0,[C:1]([N:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]/[H:8])[C:5](=[O:7])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[C:5](/[O:7]/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]/[H:8])[H:9])([H:10])([H:11])[H:12],53.72843249999889
MR_507358_1,[N:1]([C:2]([O:5][H:9])=[O:7])([O:4][H:8])[N:6]=[C:3]([H:10])[H:11]>>[N:1](=[C:2](/[O:5][H:9])[O:7][N:6]=[C:3]([H:10])[H:11])\[O:4][H:8],71.33922000001547
MR_529682_2,[C:1]([O:6][O:5][C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([O:7][H:8])([H:9])[H:10]>>[C:1]([O:5][O:6][C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([O:7][H:8])([H:9])[H:10],67.79698250000578
MR_27849_1,[C:1]([C:2]([C:4](=[O:6])[H:9])=[O:5])([N:3]([H:7])[H:8])([H:10])[H:11]>>[C:1]([C:2](=[O:5])[H:11])([N:3]([H:7])[H:8])([C:4](=[O:6])[H:9])[H:10],47.32102999998219
MR_358235_1,[C:1]1([H:12])([H:13])[C:3]([O:7][H:9])=[C:5]([N:6]([H:10])[H:11])[C:2]([H:14])([H:15])[C:4]1=[O:8]>>[C:1]1([H:12])([H:13])[C:3]([C:5](=[C:2]([H:14])[H:15])[N:6]([H:10])[H:11])([O:7][H:9])[C:4]1=[O:8],67.67399250003095
MR_349666_0,[C:1]([C:5]([N:4]([O:7][H:8])[H:9])=[C:6]([C:2]([H:13])([H:14])[H:17])[C:3]([H:15])([H:16])[H:18])([H:10])([H:11])[H:12]>>[C:1]([C@@:5]1([C:6]([C:2]([H:13])([H:14])[H:17])([C:3]([H:15])([H:16])[H:18])[H:8])[N:4]([H:9])[O:7]1)([H:10])([H:11])[H:12],65.94021000002101
MR_18207_0,[C:1]([C:4]([C:5]([C:2]([H:13])([H:14])[H:18])([C:3]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:9])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([C:4]([O:7][C:6](=[C:5]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])[H:9])=[O:8])([H:10])([H:11])[H:12],53.412172499941306
MR_405360_0,[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([O:5][H:8])/[N:6]=[N:7]/[C:4]([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([O:5][H:8])/[N:7]=[N:6]/[C:4]([H:15])([H:16])[H:17],0.6689149999876065
MR_128515_0,[C:1]([C:4]([H:18])([H:19])[H:20])([C:6]([C:3](/[C:2](=[N:5]/[H:13])[H:11])([H:15])[H:16])([N:8]([H:12])[H:14])[H:17])([O:7][H:9])[H:10]>>[C:1]([C:2]([C:3](/[C:6](=[N:8]/[H:14])[H:17])([H:15])[H:16])([N:5]([H:12])[H:13])[H:11])([C:4]([H:18])([H:19])[H:20])([O:7][H:9])[H:10],71.8029424999861
MR_667739_0,[C@@:1](/[C:5]([C:4]([H:18])([H:19])[H:20])=[N:8]/[C:3]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])([O:7][C:2]([H:12])([H:13])[H:14])[H:9]>>[C@:1]1([N:6]([H:10])[H:11])([H:9])[C@@:5]([C:4]([H:18])([H:19])[H:20])([O:7][C:2]([H:12])([H:13])[H:14])[N:8]1[C:3]([H:15])([H:16])[H:17],51.63007250001769
MR_268272_0,[C:1]([N:2]([C:3]([O:5][H:8])=[O:6])[C:4](=[O:7])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:2]=[C:4](/[O:7][C:3]([O:5][H:8])=[O:6])[H:9])([H:10])([H:11])[H:12],49.63838749998118
MR_490786_1,[C:1]([C:2]([O:7][H:10])=[O:9])(/[C:3]([N:4]([H:13])[H:14])=[C:6](\[N:5]([H:15])[H:16])[H:17])([O:8][H:11])[H:12]>>[C:1](=[C:3](/[N:4]([H:13])[H:14])[C:6]([C:2]([O:7][H:10])=[O:9])([N:5]([H:15])[H:16])[H:17])(\[O:8][H:11])[H:12],58.08955749997424
MR_119664_2,[C:1](\[N:2]([H:7])[H:8])(=[C:4](\[N:3]([H:9])[H:10])[H:11])[O:5][H:6]>>[C:1](=[C:4]([N:2]([H:7])[H:8])[N:3]([H:9])[H:10])([O:5][H:6])[H:11],69.35255499996629
